US04060626
4-ethyl-5-methylindole-2-carboxylic acid m.p. 244°-246° C. (decomp.) (recrystallized from ethanol/water)
The compound was prepared via 3-ethyl-2,4-dimethylnitrobenzene (b.p. 141°-145° C/11mm Hg) and 3-(2-ethyl-3-methyl-6-nitrophenyl)-pyruvic acid (m.p. 135° C (decomp.).

reactant | 3-ethyl-2,4-dimethylnitrobenzene | C(C)C=1C(=C(C=CC1C)[N+](=O)[O-])C | C10H13NO2
reactant | 3-(2-ethyl-3-methyl-6-nitrophenyl)-pyruvic acid | C(C)C1=C(C(=CC=C1C)[N+](=O)[O-])CC(C(=O)O)=O | C12H13NO5
product | 4-ethyl-5-methylindole-2-carboxylic acid | C(C)C1=C2C=C(NC2=CC=C1C)C(=O)O | C12H13NO2
